US05001140
Tri-hydroxymethylaminomethane (121.4 mg) and 412.5 mg of (E)-4-[[3-[2-(4-cyclobutyl-2-thiazolyl)-ethenyl]phenyl]amino]-2,2-diethyl-4-oxobutanoic acid were dissolved in 10 ml of ethanol. This solution was then condensed by rotary evaporation to yield (E)-4-[[3-[2-(4-cyclobutyl-2-thiazolyl)ethenyl]phenyl]amino]-2,2-diethyl-4-oxobutanoic acid tri-hydroxymethylaminomethane salt as a free flowing solid after trituration with cold acetonitrile, m.p. 80°-87° C.

reactant | Tri-hydroxymethylaminomethane | 121.4 mg | OC(O)(O)NC | C2H7NO3
reactant | (E)-4-[[3-[2-(4-cyclobutyl-2-thiazolyl)-ethenyl]phenyl]amino]-2,2-diethyl-4-oxobutanoic acid | 412.5 mg | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | C23H28N2O3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (E)-4-[[3-[2-(4-cyclobutyl-2-thiazolyl)ethenyl]phenyl]amino]-2,2-diethyl-4-oxobutanoic acid tri-hydroxymethylaminomethane salt | OC(O)(O)NC.C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | InChI=1S/C23H28N2O3S.C2H7NO3/c1-3-23(4-2,22(27)28)14-20(26)24-18-10-5-7-16(13-18)11-12-21-25-19(15-29-21)17-8-6-9-17;1-3-2(4,5)6/h5,7,10-13,15,17H,3-4,6,8-9,14H2,1-2H3,(H,24,26)(H,27,28);3-6H,1H3/b12-11+;
